US08865698B2
Step B: Preparation of (R)—N-(5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)morpholine-4-carboxamide:
To a DCM (0.8 mL) solution of (R)-5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (50 mg, 0.17 mmol) was added CDI (41 mg, 0.25 mmol) at ambient temperature in one portion. After stirring two hours, morpholine (22 mg, 0.25 mmol) was added in one portion. The reaction was stirred for 5 minutes before it was concentrated and directly purified by reverse-phase column chromatography, eluting with 5 to 54% acetonitrile/water to yield the final product as a yellowish foamy powder (69 mg, 100% yield). MS (apci) m/z=411.2 (M+H).

reactant | (R)-5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.17 mmol, 50 mg | FC=1C=C(C=CC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N | C16H16FN5
reactant | CDI | 0.25 mmol, 41 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | morpholine | 0.25 mmol, 22 mg | N1CCOCC1 | C4H9NO
solvent | DCM | 0.8 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(5-(2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)morpholine-4-carboxamide | 69 mg, 100% yield | FC=1C=C(C=CC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)N2CCOCC2 | C21H23FN6O2
